* LM358 behavioral macromodel
.subckt LM358 VCC OUT1 IN1M IN1P VEE IN2P IN2M OUT2
* Channel 1
Bib1p VCC IN1P I=21n
Bib1m VCC IN1M I=19n
Rin1p IN1P VEE 1G
Rin1m IN1M VEE 1G
Bgm1 VEE vc1 I=90n*tanh((V(IN1P,GND)-V(IN1M,GND)-3m)/68.2m)
Cc1 vc1 VEE 30p
Rc1 vc1 VEE 758Meg
Dclamp1a vc1 VCC Dclamp
Dclamp1b VEE vc1 Dclamp
Bout1 OUT1 0 V=V(VEE,GND)+limit(100*V(vc1,VEE),0.005,max(V(VCC,VEE)-2+0.5*limit((30-V(VCC,VEE))/25,0,1),0.005))*limit((V(VCC,VEE)-1.5)/0.5,0,1)
Riq1 VCC VEE 14.2857k
* Channel 2
Bib2p VCC IN2P I=21n
Bib2m VCC IN2M I=19n
Rin2p IN2P VEE 1G
Rin2m IN2M VEE 1G
Bgm2 VEE vc2 I=90n*tanh((V(IN2P,GND)-V(IN2M,GND)-3m)/68.2m)
Cc2 vc2 VEE 30p
Rc2 vc2 VEE 758Meg
Dclamp2a vc2 VCC Dclamp
Dclamp2b VEE vc2 Dclamp
Bout2 OUT2 0 V=V(VEE,GND)+limit(100*V(vc2,VEE),0.005,max(V(VCC,VEE)-2+0.5*limit((30-V(VCC,VEE))/25,0,1),0.005))*limit((V(VCC,VEE)-1.5)/0.5,0,1)
Riq2 VCC VEE 14.2857k
.model Dclamp D(Is=1e-14 N=1)
.ends LM358
