* SYNTHETIC_TEST_FIXTURE: idealized dominant-pole dual amplifier, not vendor silicon data.
.subckt ORACLE OUT1 IN1M IN1P VEE IN2P IN2M OUT2 VCC
XA IN1P IN1M VCC VEE OUT1 SYNTH_AMP
XB IN2P IN2M VCC VEE OUT2 SYNTH_AMP
.ends ORACLE
.subckt SYNTH_AMP P M VP VN O
Ibase VP VN 350u
IbP VN P 20n
IbM VN M 22n
Bcharge 0 pole I=limit(0.00439823*(V(P,M)+0.003),-0.0003,0.0003)
Rdom pole 0 22.7364meg
Cdom pole 0 1n
Bstop pole 0 I=0.1*(V(pole)-limit(V(pole),V(VN)+0.005,V(VP)-2))
Bdrive drive 0 V=limit(V(pole),V(VN)+0.005,V(VP)-2)
Bsource VP O I=max(0,min(0.03,(V(drive)-V(O))/10))
Bsink O VN I=max(0,min(0.02,(V(O)-V(drive))/10))
Rout O VN 1g
.ends SYNTH_AMP
