* tps54320_vendor_ltspice load transient probe
.include C:\Users\basam\AppData\Local\Temp\scholar-packaged-tests-bcQABY\fixtures\regulator\tps54320\adapted\TPS54320_TRANS_ltspice.lib
.options method=gear
.options trtol=10
V1 n_vin 0 PWL(0 0 0.0002 12 0.0023 12)
Ven n_en 0 DC 3.3
XU1 n_boot n_comp n_en 0 0 0 n_sw n_sw n_vin n_vin n_pg n_rt n_ss n_vin n_fb TPS54320_TRANS
L1 n_sw n_vout 4.7u
Cout n_vout 0 47u
Rload n_vout 0 3.3
Iload n_vout 0 PULSE(0 1 4m 1u 1u 1m 4m)
Rfbt n_vout n_fb 10000
Rfbb n_fb 0 3240
Css n_ss 0 1n
Rrt n_rt 0 150k
Cboot n_boot n_sw 100n
Rc n_comp 0 10k
Cc n_comp 0 1n
Rpg n_pg n_vin 20k
.tran 1.05e-07 0.0021 0 1e-06
.save V(n_vout)
.backanno
.end
